US05240918
2-Acetylimino-3-(4'-chloro-2'-nitrophenyl)-thiazolidine
0.52 g (2 mmoles) of 2-imino-3-(4'-chloro-2-nitrophenyl)-thiazolidine is dissolved in 20 ml of anhydrous chloroform. 0.24 g (0.21 ml, 3 mmoles) of acetyl chloride and 0.4 ml (0.3 g, 3 mmoles) of triethylamine are added to the solution and it is boiled for 30 minutes. The solution is then evaporated in vacuo, the oily residue is dissolved in 30 ml of dichloromethane and extracted twice with 10 ml of saturated aqueous sodium chloride solution each. The solution is dried and evaporated, the oily residue is crystallized from ethyl acetate.

reactant | 2-imino-3-(4'-chloro-2-nitrophenyl)-thiazolidine | 2 mmoles, 0.52 g | N=C1SCCN1C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C9H8ClN3O2S
reactant | acetyl chloride | 3 mmoles, 0.21 ml, 0.24 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 3 mmoles, 0.4 ml, 0.3 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Acetylimino-3-(4'-chloro-2'-nitrophenyl)-thiazolidine | C(C)(=O)N=C1SCCN1C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C11H10ClN3O3S
